US04849422
Grams 3 of 1-(2-hydroxypropyl)piperazine and 1.6 g of 2-chloronicotinic acid in 50 ml dioxane were refluxed for 2 days. The react ion mixture was cooled, then allowed to rest for 2 days, the solvent was removed and the residue was crystallized from absolute ethanol to give 1.2 g of 2-[4-(2-hydroxypropyl)piperazin-1-yl]nicotinic acid, melting at 222°-223° C. (with decomposition).

reactant | 1-(2-hydroxypropyl)piperazine | OC(CN1CCNCC1)C | C7H16N2O
reactant | 2-chloronicotinic acid | 1.6 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-[4-(2-hydroxypropyl)piperazin-1-yl]nicotinic acid | 1.2 g | OC(CN1CCN(CC1)C1=C(C(=O)O)C=CC=N1)C | C13H19N3O3
